US05736534
8-Bromo-1-(6,7-dimethoxy-quinazolin-4-yl)-2,3,4,5-tetrahydro-1H-benzo[b]azepine
Utilizing a procedure analogous to that described in Example 47, this product was prepared in 58% yield from 8-bromo-2,3,4,5-tetrahydro-1H-benzo[b]azepine (1.1 eq.), and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in N-methyl-pyrrolidinone. (M.P. 209°-217° C.; LC-MS: 414, 416 (MH+); anal. RP18-HPLC RT: 5.47 min.).

reactant | 8-bromo-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 1.1 eq. | BrC=1C=CC2=C(NCCCC2)C1 | C10H12BrN
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | N-methyl-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 8-Bromo-1-(6,7-dimethoxy-quinazolin-4-yl)-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 58% yield | BrC=1C=CC2=C(N(CCCC2)C2=NC=NC3=CC(=C(C=C23)OC)OC)C1 | C20H20BrN3O2
